US08217065B2
{5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-(3-methoxy-phenyl)-amine
To a solution of 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (150 mg, 0.466 mmol) in DMF (3 mL) add 3-methoxy phenyl isothiocyanate (69 uL, 0.512 mmol) and stir for 1.5 hr. Add EDCI (179 mg, 0.932 mmol) and heat to 80° C. for 50 min. Upon cooling to room temp, dilute the reaction with EtOAc (75 mL) and extract with water (15 mL). Evaporate the organic phase and suspend the solid in 1 N NaOH. Collect the solid wash with water and Et2O. Suspend the solid in boiling toluene/EtOAc. Cool the suspension to 4° C. and filter. Wash the solid with Et2O. Again suspend the solid in 1 N NaOH and stir for 1 hr. Collect the solid and wash with water and Et2O. Dry to afford the title compound: 1H NMR (400 MHz, DMSO-d6) ppm 3.78 (s, 3 H) 6.61 (dd, J=8.15, 1.83 Hz, 1 H) 7.14-7.19 (m, 1 H) 7.28 (t, J=8.15 Hz, 1 H) 7.34 (t, J=2.15 Hz, 1 H) 7.64 (dd, J=9.35, 6.69 Hz, 1 H) 7.70 (s, 1 H) 7.84 (br. s., 2 H) 7.72 (d, J=1.89 Hz, 1 H) 8.11 (br. s., 1 H) 10.67 (br. s., 1 H) 13.29 (br. s., 1 H); MS m/z=452.1 (M+1).

reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.466 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | 3-methoxy phenyl isothiocyanate | 0.512 mmol, 69 uL | COC=1C=C(C=CC1)N=C=S | C8H7NOS
reactant | EDCI | 0.932 mmol, 179 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | {5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-(3-methoxy-phenyl)-amine | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C2=NN=C(O2)NC2=CC(=CC=C2)OC | C22H15Cl2N5O2
